US04107307
6-Benzyl-imidazo[1,5-d]-as-triazin-4(3H)-one
A 7.0 gm. portion of 3-[(2-benzyl-4-imidazolyl)methylene]carbazic acid ethyl ester in 50 ml. of diphenyl ether is reacted as described in Example 70 giving the desired product as white crystals, m.p. 215°-217° C.

reactant | 3-[(2-benzyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1)CC1=CC=CC=C1)=O | C14H16N4O2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-Benzyl-imidazo[1,5-d]-as-triazin-4(3H)-one | C(C1=CC=CC=C1)C1=NC=C2N1C(NN=C2)=O | C12H10N4O
